US07745646B2
Sodium hydride (8 mg, 60%, 0.2 mmol) was added to a solution of 4-amino-8-(cyclopropylmethoxy)-3-ethyl-7-methoxy-2H-chromen-2-one (24 mg, 0.083 mmol) and DMSO (3 mL) at rt under N2. After 5 min. 3,4,5-trichloropyridine (19 mg, 0.1 mmol) was added, and the reaction was heated at 60° C. After 2 h, more 3,4,5-trichloropyridine (25 mg, 0.14 mmol) was added followed by more sodium hydride (15 mg, 60%, 0.38 mmol). After an additional 2 h at 60° C., the reaction was poured into 1M KH2PO4 (40 mL) and extracted with ethyl acetate (40 mL×2). The combined extracts were dried, filtered, concentrated, and purified by silica gel chromatography (7:3→1:4; hexanes:ethyl acetate) to give 8-(cyclopropylmethoxy)-4-(3,5-dichloropyridin-4-ylamino)-3-ethyl-7-methoxy-2H-chromen-2-one: MS (ESI): 434.8.

reactant | Sodium hydride | 0.2 mmol, 8 mg | [H-].[Na+]
reactant | 4-amino-8-(cyclopropylmethoxy)-3-ethyl-7-methoxy-2H-chromen-2-one | 0.083 mmol, 24 mg | NC1=C(C(OC2=C(C(=CC=C12)OC)OCC1CC1)=O)CC | C16H19NO4
reactant | 3,4,5-trichloropyridine | 0.1 mmol, 19 mg | ClC=1C=NC=C(C1Cl)Cl | C5H2Cl3N
reactant | 3,4,5-trichloropyridine | 0.14 mmol, 25 mg | ClC=1C=NC=C(C1Cl)Cl | C5H2Cl3N
reactant | sodium hydride | 0.38 mmol, 15 mg | [H-].[Na+]
reactant | KH2PO4 | 1M, 40 mL | OP(=O)(O)[O-].[K+]
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 8-(cyclopropylmethoxy)-4-(3,5-dichloropyridin-4-ylamino)-3-ethyl-7-methoxy-2H-chromen-2-one | C1(CC1)COC=1C(=CC=C2C(=C(C(OC12)=O)CC)NC1=C(C=NC=C1Cl)Cl)OC | C21H20Cl2N2O4
